US07119116B2
5.1. trans-3-[5-(4-Chloronaphthalen-1-yl)-1,3-dioxan-2-yl]-1-propanol
0.75 ml (10 mmol) of 2,3-dihydrofuran and then 0.25 ml of a concentrated aqueous hydrochloric acid solution (37%) are added to a solution of 1.18 g (5 mmol) of 2-(4-chloronaphthalen-1-yl)-1,3-propanediol in 10 ml of dioxane. The mixture is allowed to react overnight at ambient temperature and then 5 ml of water are added. The mixture is stirred for 5 hours and is then diluted in 25 ml of water and 50 ml of dichloromethane. The mixture is separated after settling out and the aqueous phase is extracted with 50 ml of dichloromethane. The organic phases are washed with 25 ml of a saturated aqueous sodium chloride solution, drying is carried out over sodium sulfate and concentration is carried out under reduced pressure. The residue is purified by chromatography on silica gel, eluting with a 70/30 and then 60/40 mixture of cyclohexane and ethyl acetate. After recrystallization from diisopropyl ether, 0.557 g of product is obtained, in the form of white crystals.

reactant | 2,3-dihydrofuran | 10 mmol, 0.75 ml | O1CCC=C1 | C4H6O
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
reactant | 2-(4-chloronaphthalen-1-yl)-1,3-propanediol | 5 mmol, 1.18 g | ClC1=CC=C(C2=CC=CC=C12)C(CO)CO | C13H13ClO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | trans-3-[5-(4-Chloronaphthalen-1-yl)-1,3-dioxan-2-yl]-1-propanol | 0.557 g | ClC1=CC=C(C2=CC=CC=C12)[C@H]1CO[C@@H](OC1)CCCO | C17H19ClO3
